US05326787
To a solution of hydroxylamine (3.0 g, 20.9 mmol) from above, in THF (25 mL) was added trimethylsilylisocyanate (2.9 g, 25.2 mmol) and the reaction was stirred for 30 min. The reaction was treated with saturated aqueous NH4Cl and the aqueous mixture extracted with ethyl acetate (4×120 mL). The organics were combined, dried over MgSO4 then concentrated in vacuo. The resulting residue was chromatographed (silica gel, ethyl acetate:hexanes, 50:50) followed by crystallization in ethyl acetate/hexanes to afford N-hydroxy-N-1-(1-cycloheptyl)methylurea. m.p.=110°-112° C.; 1H NMR (300 MHz, DMSO-d6): δ1.09 (m, 2H), 1.2-1.7 (m, 10H), 1.79 (m, 1H), 3.14 (d, 2H, J=7.4), 6.16 (bs, 2H), 9.17 (s, 1H); Analysis calc'd for C9H18N2O2 : C, 58.04, H, 9.74, N, 15.04; Found: C, 57.85 , H, 9.60, N, 15.10.

reactant | hydroxylamine | 20.9 mmol, 3.0 g | NO | H3NO
reactant | trimethylsilylisocyanate | 25.2 mmol, 2.9 g | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | NH4Cl | [NH4+].[Cl-]
reactant | THF | 25 mL | C1CCOC1 | C4H8O
product | N-hydroxy-N-1-(1-cycloheptyl)methylurea | ON(C(=O)N)CC1CCCCCC1 | C9H18N2O2
